US04247551
N-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-dimethylamino-3-pyridazineamine
The product is obtained according to the procedure of example 19 by reacting 3-hydrazino-6-dimethylamino-pyridazine dihydrochloride and 2,5-hexanedione in acetic acid in the presence of sodium acetate. Yield 47%; m.p. 165°-167° C. (from ethyl ether).

reactant | 3-hydrazino-6-dimethylamino-pyridazine dihydrochloride | Cl.Cl.N(N)C=1N=NC(=CC1)N(C)C
reactant | 2,5-hexanedione | CC(CCC(C)=O)=O | C6H10O2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-dimethylamino-3-pyridazineamine | Yield 47% | CC=1N(C(=CC1)C)NC=1N=NC(=CC1)N(C)C | C12H17N5
